US04652654
A process for preparing 2(4-fluorophenyl)α-methyl-5-benzoxazole acetic acid starting from 4-hydroxy-3-amino-phenylacetic acid, which is firstly reacted with 4-fluorobenzoyl chloride, and the product obtained is reacted with phosphoric acid; the 2(4-fluorophenyl)5-benzoxazole acetic acid obtained in this manner is esterified with ethyl alcohol, and the ester is treated with diethyloxalate; the ethyl 2(4-fluorophenyl)5-benzoxazole oxalacetate obtained is reacted with formaldehyde and potassium carbonate to obtain ethyl 2(4-fluorophenyl)5-benzoxazole acrylate, which is hydrolysed to obtain the corresponding acid, from which the 2(4-fluorophenyl)α-methyl-5-benzoxazole acetic acid is obtained by hydrogenation.

reactant | 2(4-fluorophenyl)α-methyl-5-benzoxazole acetic acid | FC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C(C(=O)O)C | C16H12FNO3
reactant | 4-hydroxy-3-amino-phenylacetic acid | OC1=C(C=C(C=C1)CC(=O)O)N | C8H9NO3
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 2(4-fluorophenyl)5-benzoxazole acetic acid | FC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)CC(=O)O | C15H10FNO3
